US05446172
A mixture of 12.12 grams (0.06 mole) of diphenylsulfoxide, 10.3 gram of octylphenyl ether and 20 ml of PP/MSA resulted in an exothermic reaction. The temperature of the mixture increased to 42° C. After the exotherm had subsided, the temperature was raised to 50° C. and maintained at that temperature for 1 hour with stirring. There was obtained a complex reaction product of diphenylsulfoxide and octylphenyl ether. The mixture was then poured into 200 ml of water. A clear yellow solution was obtained. There was added to the solution, 9.5 grams of potassium hexafluorophosphate. A yellow oil precipitated from the solutionwhich solidified to a white crystalline solid upon standing. The mixture was warmed slightly to 40° C. and stirred. There was obtained a quantitative yield of crude product. The product was recovered by filtering and washed twice with water followed by petroleum ether. The crude product was further purified by recrystallization from absolute ethanol. (4-octyloxyphenyl)diphenylsulfonium hexafluorophosphate was obtained at a 74% yield. It had a melting point of 94°-95° C.

reactant | diphenylsulfoxide | 0.06 mole, 12.12 grams | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | octylphenyl ether | 10.3 gram | C(CCCCCCC)OC1=CC=CC=C1 | C14H22O
reactant | potassium hexafluorophosphate | 9.5 grams | F[P-](F)(F)(F)(F)F.[K+]
solvent | water | 200 ml | O | H2O
product | (4-octyloxyphenyl)diphenylsulfonium hexafluorophosphate | 74% yield | F[P-](F)(F)(F)(F)F.C(CCCCCCC)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H31OS.F6P/c1-2-3-4-5-6-13-22-27-23-18-20-26(21-19-23)28(24-14-9-7-10-15-24)25-16-11-8-12-17-25;1-7(2,3,4,5)6/h7-12,14-21H,2-6,13,22H2,1H3;/q+1;-1
